US07557131B2
Preparation 43: 1-Benzyl-4-(2-chlorophenoxy)piperidine
Triphenylphosphine (1.91 g, 7.31 mmol) was added to an ice-cooled solution of di-isopropylazodicarboxylate (1.48 g, 7.31 mmol) in dichloromethane (15 mL) and the mixture was stirred for 10 minutes. A solution of 2-chlorophenol (806 mg, 6.27 mmol) and 1-benzyl-4-hydroxypiperidine (1 g, 5.22 mmol) in dichloromethane (5 mL) was then added dropwise to the ice-cooled reaction mixture and stirring continued for a further 72 hours. The reaction mixture was then concentrated in vacuo and the residue was dissolved in diethyl ether and extracted with saturated citric acid solution (5×10 mL). The combined aqueous solution was then basified with sodium hydroxide and extracted with dichloromethane (2×20 mL). The combined organic solution was dried over magnesium sulfate and concentrated in vacuo to afford the title compound as a clear oil in 89% yield, 1.4 g. 1H NMR(CDCl3, 400 MHz) □: 1.85-1.95(m, 2H), 1.97-2.08(m, 2H), 2.32-2.47(m, 2H), 3.58(s, 2H), 4.46-4.34(m, 1H), 6.87-6.95(m, 2H), 7.16-7.22(m, 1H), 7.20(dd, 1H), 7.26-7.37(m, 6H)

reactant | Triphenylphosphine | 7.31 mmol, 1.91 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-chlorophenol | 6.27 mmol, 806 mg | ClC1=C(C=CC=C1)O | C6H5ClO
reactant | 1-benzyl-4-hydroxypiperidine | 5.22 mmol, 1 g | C(C1=CC=CC=C1)N1CCC(CC1)O | C12H17NO
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 1-Benzyl-4-(2-chlorophenoxy)piperidine | 89% yield | C(C1=CC=CC=C1)N1CCC(CC1)OC1=C(C=CC=C1)Cl | C18H20ClNO
